US07183270B2
Part C. Preparation of 6-tert-Butyl-pyrrolo[2,1-f][1,2,4]triazin-4-ol
Ethyl 3-tert-Butyl-1-aminopyrrole-5-carboxylate (1.00 g, 4.76 mmol, 1 eq), formamidine acetate (1.46 g, 14.3 mmol, 3 eq.) and ethoxyethanol (10 mL) were mixed and refluxed for 3 hours. The solvent was stripped and then restripped from chloroform (3×) to yield a solid. This solid was stirred in 5 mL MeOH, filtered, and the collected solids rinsed with Et2O and dried to yield 233 mg of a white solid as product. LCMS found: (M+H)++=191.

reactant | Ethyl 3-tert-Butyl-1-aminopyrrole-5-carboxylate | 4.76 mmol, 1.00 g, 1 eq | C(C)(C)(C)C1=CN(C(=C1)C(=O)OCC)N | C11H18N2O2
reactant | formamidine acetate | 14.3 mmol, 1.46 g, 3 eq. | C(C)(=O)O.C(=N)N
reactant | ethoxyethanol | 10 mL | C(C)OC(C)O | C4H10O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 5 mL | CO | CH4O
product | 6-tert-Butyl-pyrrolo[2,1-f][1,2,4]triazin-4-ol | 233 mg | C(C)(C)(C)C=1C=C2C(=NC=NN2C1)O | C10H13N3O
